US03976635
The reaction of ethyl 2-hydroxyimino-2-cyanoacetate (8.5 g) with ethyl chloroformate (6.0 g) is carried out as in Example 3 to give ethyl 2-ethoxycarbonyloxyimino-2-cyanoacetate (8.8 g) as an oil.

reactant | ethyl 2-hydroxyimino-2-cyanoacetate | 8.5 g | ON=C(C(=O)OCC)C#N | C5H6N2O3
reactant | ethyl chloroformate | 6.0 g | ClC(=O)OCC | C3H5ClO2
product | ethyl 2-ethoxycarbonyloxyimino-2-cyanoacetate | 8.8 g | C(C)OC(=O)ON=C(C(=O)OCC)C#N | C8H10N2O5
